US07834036B2
A heterogeneous mixture of 4-chlorophenol (14.1 g, 0.11 mmol), 4-fluorobenzaldehyde 12.4 g, 0.1 mmol) and CS2CO3 (65.0 g, 0.20 mmol) in DMF (400 mL) was stirred at 90° C. for 6 h. The reaction mixture was poured into water (1.2 L) and extracted with ethyl acetate (2×200 mL). The organic phase was washed with water (2×100 mL), dried over magnesium sulfate and concentrated to give essentially pure 4-chlorophenoxybenzaldehyde, which was used directly in the next step.

reactant | 4-chlorophenol | 0.11 mmol, 14.1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 4-fluorobenzaldehyde | 0.1 mmol, 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | water | 1.2 L | O | H2O
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 4-chlorophenoxybenzaldehyde | ClC1=CC=C(OC2=C(C=O)C=CC=C2)C=C1 | C13H9ClO2
